US08071816B2
Preparation of C2F5CH(OCH2C2F5)OCF2CFHCF3
The entire contents of the pentafluoropropanol solution (containing the desired C2F5CH(OH)OCH2C2F5) were placed in a 600 mL Parr reaction vessel along with acetonitrile (167 g) and powdered potassium carbonate (2.9 g). The reactor was sealed, evacuated and heated to 40° C. Hexafluoropropene (64.8 g, 0.43 mole) was added in portions over about two hours and the reactor then held at temperature overnight. The reaction mixture was worked up by pouring into water and washing the resulting lower phase three times with water followed by distillation. The distillation afford a main fraction of boiling point 142° C. The product identity was confirmed by GC-MS and H-1 and F-19 NMR as a mixture of diastereomers in a ratio of 55/45%. One diastereomeric fraction was thought to contain SS and RR enantiomers and the other SR and RS enantiomers. The NMR data showed that the product contained about 4.2% olefin [—OCF═CFCF3] as a 43/57% cis/trans mixture. The excess pentafluoropropanol was converted to CF3CF2CH2OCF2CFHCF3 which was removed during the distillation.

reactant | pentafluoropropanol | FCC(C(O)(F)F)(F)F | C3H3F5O
reactant | C2F5CH(OH)OCH2C2F5 | C(F)(F)(C(F)(F)F)C(O)OCC(F)(F)C(F)(F)F | C6H4F10O2
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Hexafluoropropene | 0.43 mole, 64.8 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | CF3CF2CH2OCF2CFHCF3 | C(F)(F)(F)C(F)(F)COC(F)(F)C(F)C(F)(F)F | C6H3F11O
solvent | water | O | H2O
solvent | acetonitrile | 167 g | C(C)#N | C2H3N
product | C2F5CH(OCH2C2F5)OCF2CFHCF3 | C(F)(F)(C(F)(F)F)C(OCC(F)(F)C(F)(F)F)OC(F)(F)C(F)C(F)(F)F | C9H4F16O2
